US07279496B2
44.8 mmol of 1-azabicyclo[2.2.2]octan-3-one hydrochloride (3-quinuclidinone hydrochloride) and 112 mmol of potassium hydroxide are added to a solution of 22.4 mmol of 5-nitro-1H-indole in 100 ml of water/methanol (1/1), and the mixture is stirred at the boiling point for 48 hours. The crystals which deposit on cooling of the reaction solution are filtered off, washed and dried, giving 3-(5-nitro-1H-indol-3-yl)-1-azabicyclo[2.2.2]-oct-2-ene.

reactant | 1-azabicyclo[2.2.2]octan-3-one hydrochloride | 44.8 mmol | Cl.N12CC(C(CC1)CC2)=O
reactant | potassium hydroxide | 112 mmol | [OH-].[K+]
reactant | 5-nitro-1H-indole | 22.4 mmol | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
solvent | water methanol | 100 ml | O.CO
product | 3-(5-nitro-1H-indol-3-yl)-1-azabicyclo[2.2.2]-oct-2-ene | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)C1=CN2CCC1CC2 | C15H15N3O2
